US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.40, 7.32, 7.20, 7.08, 5.41, 4.57, 2.80, 2.53, 2.41, 2.06, 1.96, 1.90, 1.18; 13C NMR (100 MHz, CDCl3) δ 151.50, 150.93, 140.37, 138.53, 138.37, 137.87, 137.123, 135.36, 134.43, 132.95, 129.78, 129.62, 129.44, 127.57, 127.51, 125.63, 60.82, 49.01, 29.96, 27.62, 26.93, 14.61, 13.32, 11.67; HRMS (FAB) calcd for C18H22BrN3+H 360.1076, found 360.1065.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=CC=CC=C12)CC | C18H22BrN3
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCCC2=CC=CC=C12)CC | C24H25Cl2N3
